US04618619
28.2 g (0.2 mole) of 2,2-di(chloromethyl)-oxirane are added dropwise to a mixture of 82.5 g (1.2 moles) of 1,2,4-triazole and 82.5 g (0.6 mole) of potassium carbonate in 400 ml of acetone, while stirring. The reaction mixture is stirred under reflux for 50 hours and filtered and the filtrate is concentrated in vacuo. The oily residue is chromatographed (silica gel 60, Merck, chloroform/methanol=20/1). 5.9 g (10.7% of theory) of 1,3-di(1,2,4-triazol-1-yl)-2-hydroxy-2-(1,2,4-triazol-4-yl-methyl)-propane of melting point 220° C. are obtained.

reactant | 2,2-di(chloromethyl)-oxirane | 0.2 mole, 28.2 g | ClCC1(OC1)CCl | C4H6Cl2O
reactant | 1,2,4-triazole | 1.2 moles, 82.5 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.6 mole, 82.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 1,3-di(1,2,4-triazol-1-yl)-2-hydroxy-2-(1,2,4-triazol-4-yl-methyl)-propane | 5.9 g, 10.7% | N1(N=CN=C1)CC(CN1N=CN=C1)(CN1C=NN=C1)O | C10H13N9O
